US04006242
Preparation of methyl-6-n-propyloxybenzothiazole-2-carbamate
To a stirring solution of 24.45 g. of 2-amino-6-n-propyloxybenzothiazole-hydrochloride in 100 ml of pyridine maintained at 0° C. by an ice bath, is slowly added 9.45 g. of methyl chloroformate. After the addition is completed the mixture is allowed to warm up to room temperature. It is then poured on 300 g. of ice water. A solid is formed which is isolated by filtration and crystallized from ethanol yield 20 g m.p. 178°-180° C.

reactant | 2-amino-6-n-propyloxybenzothiazole-hydrochloride | Cl.NC=1SC2=C(N1)C=CC(=C2)OCCC
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | methyl-6-n-propyloxybenzothiazole-2-carbamate | COC(NC=1SC2=C(N1)C=CC(=C2)OCCC)=O | C12H14N2O3S
